US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (17.7 mg) (0.03 mmol), 7 mg (0.039 mmol) of α-(aminooxy)-N-hydroxy-p-toluamide and 3.7 mg (0.039 mmol) of methanesulphonic acid are dissolved in 0.3 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours the mixture is concentrated in a high vacuum at room temperature and the residue is treated with water. The precipitated product is filtered off, washed with water and dried in a high vacuum at room temperature. There are obtained 23 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[p-(hydroxycarbamoyl)benzyl]oxy]imino]acetamido]-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyc[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder of m.p. 250° C. (dec.).

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.03 mmol, 17.7 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)C)=O | C20H17N9O7S3
reactant | α-(aminooxy)-N-hydroxy-p-toluamide | 0.039 mmol, 7 mg | NOCC1=CC=C(C=C1)C(=O)NO | C8H10N2O3
reactant | methanesulphonic acid | 0.039 mmol, 3.7 mg | CS(=O)(=O)O | CH4O3S
solvent | dimethylacetamide | 0.3 ml | CC(=O)N(C)C | C4H9NO
product | oct-2-ene-2-carboxylic acid | CC(=CCCCCC)C(=O)O | C9H16O2
